US08629160B2
Preparation of 2-(benzo[b]thiophen-2-yl)-2-(phenylamino)acetic acid (I30)
A mixture of benzo[b]thiophen-2-ylboronic acid (500 mg, 2.81 mmol), aniline (240 μl, 2.81 mmol), and 2-oxoacetic acid hydrate (259 mg, 2.81 mmol) in acetonitrile (20 ml) was stirred at room temperature for three days. The solvent was evaporated to dryness and the crude was used as such in the next step.

reactant | benzo[b]thiophen-2-ylboronic acid | 2.81 mmol, 500 mg | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | aniline | 2.81 mmol, 240 μl | NC1=CC=CC=C1 | C6H7N
reactant | 2-oxoacetic acid hydrate | 2.81 mmol, 259 mg | O.O=CC(=O)O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(benzo[b]thiophen-2-yl)-2-(phenylamino)acetic acid | S1C2=C(C=C1C(C(=O)O)NC1=CC=CC=C1)C=CC=C2 | C16H13NO2S
